US07399867B2
5-Bromo-1,3-difluoro-2-methanesulfonyl-benzene
Combine 5-bromo-1,3-difluoro-2-methylsulfanyl-benzene (1.1 g, 4.6 mmol), oxone (11 g, 18.4 mmol) and methanol (20 mL). Stir for 12 hours. Filter the suspension and evaporate the filtrate. Dissolve the residue in dichloromethane (100 mL) and add water (100 mL). Separate the organic layer and wash with brine (50 mL). Dry with MgSO4, filter and concentrate in vacuo. Chromatograph the residue on a column eluting the material with diethyl ether in hexane (0 to 5%) to give 497 mg of the title compound (40%).

reactant | 5-bromo-1,3-difluoro-2-methylsulfanyl-benzene | 4.6 mmol, 1.1 g | BrC=1C=C(C(=C(C1)F)SC)F | C7H5BrF2S
reactant | oxone | 18.4 mmol, 11 g | OOS(=O)[O-].[K+]
reactant | methanol | 20 mL | CO | CH4O
product | 5-Bromo-1,3-difluoro-2-methanesulfonyl-benzene | 497 mg, 40% | BrC=1C=C(C(=C(C1)F)S(=O)(=O)C)F | C7H5BrF2O2S
